US07344823B2
[7-(Dimethylamino)phenothiazine-3-ylidene]methane-1,1-dicarbonitrile
To the solution of 3-(dimethylamino)phenothiazine-5-ium triiodide (0.15 g, 0.24 mmole) in methanol (10 ml) was added malononitrile (0.095 g, 1.44 mmole) and sodium carbonate (0.28 g, 2.88 mmole), and the mixture was stirred at room temperature for 2 hrs, and the reaction was monitored by UV-Vis. Then brine and CH2Cl2 were added to the reaction mixture, and the CH2Cl2 layer was separated, washed with water, brine and dried (Na2SO4). Purification by column chromatography (SiO2, CH2Cl2) afforded a deep blue band, and after removal of the solvent, afforded a purple solid.

reactant | 3-(dimethylamino)phenothiazine-5-ium triiodide | 0.24 mmole, 0.15 g | [I-].[I-].[I-].CN(C=1C=CC2=NC3=CC=CC=C3[S+]=C2C1)C.CN(C)C=1C=CC2=NC3=CC=CC=C3[S+]=C2C1.CN(C)C=1C=CC2=NC3=CC=CC=C3[S+]=C2C1
reactant | malononitrile | 1.44 mmole, 0.095 g | C(CC#N)#N | C3H2N2
reactant | sodium carbonate | 2.88 mmole, 0.28 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
solvent | brine | [Cl-].[Na+].O
product | [7-(Dimethylamino)phenothiazine-3-ylidene]methane-1,1-dicarbonitrile | CN(C=1C=C2SC3=CC(C=CC3=NC2=CC1)=C(C#N)C#N)C | C17H12N4S
